US04843100
In 20 ml of acetic acid was dissolved under heating 0.4 g of N-(2,6-difluorobenzoyl)-N'-[2,5-dichloro-4-(1,1,2,2-tetrafluoroethylthio)phenyl]urea, and 1 ml of 30% hydrogen peroxide aqueous solution was added to the solution, followed by heating at 90° C. for 3.5 hours. The reaction mixture was diluted with water, and the crystals which separated out were recovered by filtration, and washed with water and ethanol successively to give 0.4 g of N-(2,6-difluorobenzoyl)-N'-[2,5-dichloro-4-(1,1,2,2-tetrafluoroethylsulfinyl)phenyl]urea (Compound No. 34), m.p. of 216°-220° C.

reactant | N-(2,6-difluorobenzoyl)-N'-[2,5-dichloro-4-(1,1,2,2-tetrafluoroethylthio)phenyl]urea | 0.4 g | FC1=C(C(=O)NC(=O)NC2=C(C=C(C(=C2)Cl)SC(C(F)F)(F)F)Cl)C(=CC=C1)F | C16H8Cl2F6N2O2S
reactant | hydrogen peroxide | 1 ml | OO | H2O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(2,6-difluorobenzoyl)-N'-[2,5-dichloro-4-(1,1,2,2-tetrafluoroethylsulfinyl)phenyl]urea | 0.4 g | FC1=C(C(=O)NC(=O)NC2=C(C=C(C(=C2)Cl)S(=O)C(C(F)F)(F)F)Cl)C(=CC=C1)F | C16H8Cl2F6N2O3S
